US05288514
3. Coupling 2-Aminobenzophenone-Linker Complex to Solid Support
To a 30 mL peptide reaction flask was added 4-(4-(5-chloro-2-fluorenylmethoxycarbonylamino-benzoyl)-phenoxymethyl)phenoxyacetic acid (1.52 g, 2.4 mmol, 2.0 equivalents), aminomethyl resin (1.99 g, 1.19 mmol of 1% crosslinked divinylbenzene-styrene, 100 mesh size, substitution level 0.60 milliequivalents/g), and hydroxybenzotriazole monohydrate (0.808 g, 5.28 mmol, 4.4 equivalents). Anhydrous DMF (12 mL) was added to the flask and the mixture was vortexed for 0.5 hour to fully solvate the resin. Diisopropylcarbodiimide (808 mg, 5.28 mmol, 4.4 equivalents) was added by syringe. The reaction flask was stoppered and then vortexed for 24 hours at which point the ninhydrin test on approximately 10 mg of the solid support demonstrated that coupling was complete. The solvent and reagents were filtered away from the solid support and the support was rinsed five times with 20 mL DMF and five times with 20 mL CH2Cl2 (for each rinse the mixture was vortexed for at least 30 seconds before filtering off the solvent) and then dried in vacuo for 12 hours.

reactant | 4-(4-(5-chloro-2-fluorenylmethoxycarbonylamino-benzoyl)-phenoxymethyl)phenoxyacetic acid | 2.4 mmol, 1.52 g, 2.0 equivalents | ClC=1C=CC(=C(C(=O)C2=CC=C(OCC3=CC=C(OCC(=O)O)C=C3)C=C2)C1)NC(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12 | C37H28ClNO7
reactant | hydroxybenzotriazole monohydrate | 5.28 mmol, 0.808 g, 4.4 equivalents | O.OC1=CC=CC=2NN=NC21
reactant | Diisopropylcarbodiimide | 5.28 mmol, 808 mg, 4.4 equivalents | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 2-Aminobenzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
